US07872028B2
tert-Butyl 3-((4-methoxybutoxy)(phenyl)methyl)pyrrolidine-1-carboxylate (47 mg, 0.13 mmol) was dissolved in 4 M HCl in dioxane (4 mL, 16 mmol). The solution was stirred at rt for 2 h and concentrated to afford 3-((4-methoxybutoxy)(phenyl)methyl)pyrrolidine hydrochloride (41.3 mg, quant) as an oil.

reactant | tert-Butyl 3-((4-methoxybutoxy)(phenyl)methyl)pyrrolidine-1-carboxylate | 0.13 mmol, 47 mg | COCCCCOC(C1CN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C21H33NO4
reactant | dioxane | 16 mmol, 4 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 4 M | Cl | ClH
product | 3-((4-methoxybutoxy)(phenyl)methyl)pyrrolidine hydrochloride | 41.3 mg | Cl.COCCCCOC(C1CNCC1)C1=CC=CC=C1 | InChI=1S/C16H25NO2.ClH/c1-18-11-5-6-12-19-16(15-9-10-17-13-15)14-7-3-2-4-8-14;/h2-4,7-8,15-17H,5-6,9-13H2,1H3;1H
